US09315521B2
Ethyl 3-oxopentanoate (2.5 mL, 17.6 mmole) and pyrrolidine (1.4 mL, 17.1 mmole) were dissolved in benzene and added to a 100 mL flask fitted with a Dean-Stark water separator. The reaction was stirred at reflux for 3 hours. After cooling to room temperature, the solvent was evaporated under reduced pressure and the product was dried in vacuo, affording ethyl 3-(pyrrolidin-1-yl)pent-2-enoate (3.4 g, 98% yield). The product was used without further purification.

reactant | Ethyl 3-oxopentanoate | 17.6 mmole, 2.5 mL | O=C(CC(=O)OCC)CC | C7H12O3
reactant | pyrrolidine | 17.1 mmole, 1.4 mL | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl 3-(pyrrolidin-1-yl)pent-2-enoate | 3.4 g, 98% yield | N1(CCCC1)C(=CC(=O)OCC)CC | C11H19NO2
